US06756395B2
Into a solution of 2-allyl-3-hydroxy-4-nitro-benzoic acid methyl ester (6.11 g 25.6 mmol) in dichloromethane (100 mL) and methanol (10 mL) at −78° C. was bubbled with ozone for 40 minutes. After stirring for another 20 min at −70° C., a stream of nitrogen gas was passed through the reaction mixture. Dimethyl sulfide (5 mL, 68.1 mmol) was added at −78° C. The reaction solution was allowed to warm up gradually to room temperature overnight. The reaction mixture was partitioned between dichloromethane and water. The aqueous layer was further extracted twice with dichloromethane. The organic extract was washed with brine, dried (anhydrous sodium sulfate), and concentrated under reduced pressure to give 2-hydroxy-7-nitro-2,3-dihydro-benzofuran-4-carboxylic acid methyl ester as a yellow solid (6.0 g). 1H NMR (CDCl3) δ: 3.51-3.74 (m, 2H), 3.96 (s, 3H), 6.43 (dd, 1H, J=6.4 Hz, 2.6 Hz), 7.63 (d, 1H, J=8.8), 8.01 (d, 1H, J=8.9 Hz).

reactant | 2-allyl-3-hydroxy-4-nitro-benzoic acid methyl ester | 25.6 mmol, 6.11 g | COC(C1=C(C(=C(C=C1)[N+](=O)[O-])O)CC=C)=O | C11H11NO5
reactant | ozone | O=[O+][O-] | O3
reactant | Dimethyl sulfide | 68.1 mmol, 5 mL | CSC | C2H6S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 2-hydroxy-7-nitro-2,3-dihydro-benzofuran-4-carboxylic acid methyl ester | 6.0 g | COC(=O)C=1C=CC(=C2C1CC(O2)O)[N+](=O)[O-] | C10H9NO6
